Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Weakness and shortness of breath.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is an ___ y.o. F with history of atrial fibrillation, 
HTN, left breast carcinoma diagnosed in ___, and diastolic 
congestive failure (EF 55-60% in ___, who presents with 
weakness. Since ___s ___, she has been taking levofloxacin 
for pneumonia that was prescribed from an ED visit for 11 days. 
She is on her ___ day of levofloxacin. She last took it today. 
She endorsed a cough a week ago with intermittent cough today. 
Denies fever. Today, she felt very weak and dizzy with getting 
up. She felt that she could not walk today due to her weakness. 
She stated that she drank lots of fluids, but cannot quantify 
it. She did note frequent urination. She also has fallen 3 times 
in the last few weeks. She notes a L upper arm hematoma. She 
denies LOC with these episodes, but cannot tell me whether this 
was a mechanical fall.
.
In the ED, initial VS: T 98 HR 88 BP 148/87 RR 16 99% RA
Labs, including cardiac enzymes, were drawn. EKG, CT head, and 
CXR were completed. Given 1 L NS. Of note, she is allergic to 
aspirin so did not receive this in the ED.
.
Currently, she has no complaints.
.
ROS: (+) per HPI with addition of + shortness of breath (but 
intermittent and with exertion at baseline)
Denies fever, chest pain, chest pain, n/v, abdominal pain
 
Past Medical History:
Recent fall in ___ when she tripped, fell, and fractured a 
number of vertebrae in her back
History of ___ disease
Atrial fibrillation
Hypertension
Diastolic congestive heart failure (EF 55-60% in ___
 
Social History:
___
Family History:
Her sister as well as her brother's daughter, both suffer from 
bleeding disorders. However, she is unsure of the diagnosis of 
___ disease.
 
Physical Exam:
Vitals - T: 98.6 BP: 156/89 HR: 100 RR: 20 02 sat: 100% 2 L NC
GENERAL: pleasant, elderly female in NAD with son at bedside
___: EOMI, anicteric, MMM, OP - no exudate, no erythema, no 
cervical LAD
CARDIAC: irreg irreg, no m/r/g
LUNG: CTAB, no w/r/r
ABDOMEN: NDNT soft NABS
EXT: no pitting edema, but mild swelling in b/l ankles
NEURO: II-XII grossly intact
DERM: no rashes, L upper arm ecchymoses noted, no ecchymoses on 
back
 
Pertinent Results:
___ 01:00PM BLOOD WBC-8.0 RBC-4.76 Hgb-14.2 Hct-43.6 MCV-92 
MCH-29.8 MCHC-32.5 RDW-14.6 Plt ___
___ 06:30AM BLOOD WBC-7.2 RBC-4.15* Hgb-12.2 Hct-38.3 
MCV-92 MCH-29.5 MCHC-31.9 RDW-14.6 Plt ___
___ 05:50AM BLOOD WBC-7.0 RBC-4.07* Hgb-12.2 Hct-38.7 
MCV-95 MCH-30.1 MCHC-31.6 RDW-14.6 Plt ___
___ 01:00PM BLOOD Neuts-77.8* Lymphs-15.0* Monos-5.5 
Eos-1.5 Baso-0.2
___ 01:00PM BLOOD ___ PTT-34.4 ___
___ 05:50AM BLOOD Glucose-91 UreaN-16 Creat-0.9 Na-145 
K-4.2 Cl-111* HCO3-25 AnGap-13
___ 01:00PM BLOOD CK(CPK)-29
___ 09:25PM BLOOD CK(CPK)-23*
___ 06:30AM BLOOD CK(CPK)-21*
___ 01:00PM BLOOD cTropnT-<0.01
___ 09:25PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 06:30AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 06:30AM BLOOD Calcium-9.6 Phos-2.8 Mg-2.2
___ 01:00PM BLOOD TSH-1.5
___ 01:35PM URINE Color-Straw Appear-Clear Sp ___
___ 01:35PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 01:35PM URINE Hours-RANDOM

CT HEAD ___: 1. No acute intracranial hemorrhage or acute 
major vascular territory infarction. If there is suspicion for 
acute infarction, MRI is more sensitive. 2. Chronic small vessel 
ischemic disease changes are noted. 3. A hypodense area within 
the right choroid fissure that likely represents either a 
perivascular space or arachnoid cyst. 

CHEST X-RAY ___: 1. Linear opacities in left lower lung 
base, consistent with atelectasis. 2. Compression fracture of 
L1, morphology suggests chronicity. Correlate with clinical 
exam. 

 
Brief Hospital Course:
___ y.o. F with history of atrial fibrillation, HTN, left breast 
carcinoma diagnosed in ___, and diastolic congestive failure 
(EF 55-60% in ___, who presents with weakness and falls 
after outpatient treatment for pneumonia for 9 days.
.
# Weakness: On admission, Mrs. ___ was treated for presumed 
dehydration in setting of poor PO intake with recent pneumonia.  
CBC and chem-7 showed no evidence of infection.  Chest x-ray 
with no infiltrate.  Orthostatics were negative.  TSH normal, 
ruled out for MI.  Atrial fibrillation noted to be well rate 
controlled.  Recieved 1 liter IVF over first night and felt 
improved.  Physical therapy evlauted and she became tachycardic 
to 140's with ambulation.  Recieved additional 1L NS  and was 
discharged home with home phsical therapy.
.
# History of falls: No true syncope as patient denies LOC.  CT 
head negative.  Physical therapy evaluated and recommended home 
physical therapy.
.
# Shortness of breath: Per patient, at baseline and not 
worsened.  Chest x-ray was normal.  Incentive spirometry for 
presumed atelecatsis.  Did not continue Levofloxacin for last 
day of treatment given no sign of infection.
.
# Atrial fibrillation: CHADS 2 score is 3, and patient should be 
anticoagulated; however given history of falls and allergy to 
aspirin and VWD, she cannot be anticoagulated.  She remained 
rate controlled on telemetry with no hemodynamic instability. 
Continued beta-blocker.
.
# CHF, diastolic, chronic: held lasix given dehydration.  
Recieved IVF per above, restarted lasix on discharge.
.
# Hypothyroidism: TSH WNL, continued levothyroxine at home dose.

 
Medications on Admission:
furosemide 40 mg p.o. daily
levothyroxine 100 mcg p.o. daily
potassium 10 mEq a day
lovastatin 20 mg p.o. daily
Tums 750 one a day.
lisinopril 40 mg p.o. daily
vitamin D
multivitamins
omega-3 two grams a day
Coreg 25 mg twice a day
alendronate 70 mg once a week.
 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO once a 
day.  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: 1.5 Tablet, 
Chewables PO DAILY (Daily).  
3. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
7. Carvedilol 12.5 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
8. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical Q12H (every 12 hours).
Disp:*60 Adhesive Patch, Medicated(s)* Refills:*2*
9. Lovastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 
11. Furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Potassium Chloride 10 mEq Capsule, Sustained Release Sig: 
One (1) Capsule, Sustained Release PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Weakness

Secondary Diagnosis:
1. Atrial Fibrillation

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital due to difficulty walking and 
having fallen over the past few days.  Imaging of your head was 
normal.  A chest x-ray did not show any signs of worsening 
pneumonia.  You were given IV fluids and monitored closely.  
Your heart rate became fast while walking with physical therapy, 
so you were given some additional fluids and monitored 
overnight.  You are being discharged home with physical therapy.

CHANGES IN MEDICATION:
None, please take all medications as previously prescribed

If you experience fever > 101, shortness of breath, increased 
falls, loss of conciuosness, chest pain, increasing weakness or 
any other symptom that concerns you, please contact your primary 
care physician or go to the nearest emergency room for 
evaluation. 
 
Followup Instructions:
___